US07265104B2
Following the procedure described in Example 3(A), Step A, N-benzyl-2-(8,9-difluoro-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-acetamide (Preparation 9) (200 mg, 0.399 mmol) was alkylated with 3-bromomethyl-indazole-1-carboxylic acid tert-butyl ester (136 mg, 0.439 mmol). The reaction was diluted with a pH 6.8 buffer solution and the aqueous solution was extracted with EtOAc. The organic solution was washed with brine (4×), dried (Na2SO4), filtered and concentrated in vacuo. Purification by medium pressure chromatography eluting with a solvent gradient (CH2Cl2 to 30% MeOH in CH2Cl2) provided 100 mg of 3-{6-[(benzyl-isopropyl-carbamoyl)-methyl]-8,9-difluoro-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indazole-1-carboxylic acid tert-butyl ester. MS 732.5 (M+1), 730.4 (M−1).

reactant | N-benzyl-2-(8,9-difluoro-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-acetamide | 0.399 mmol, 200 mg | C(C1=CC=CC=C1)N(C(CN1C2=C(N3C(=NN=C3CC1=O)C1=CC=CC=C1)C=C(C(=C2)F)F)=O)C(C)C | C28H25F2N5O2
reactant | 3-bromomethyl-indazole-1-carboxylic acid tert-butyl ester | 0.439 mmol, 136 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CBr | C13H15BrN2O2
product | 3-{6-[(benzyl-isopropyl-carbamoyl)-methyl]-8,9-difluoro-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indazole-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=C(C(=C2)F)F)CC(N(C(C)C)CC2=CC=CC=C2)=O)=O | C41H39F2N7O4
